US07091216B2
Step A: 3-Dimethylamino-1-(2,4-dichlorophenyl)-2-(4-chlorophenyl)prop-2-en-1-one
A solution of 4-chlorobenzyl 2,4-dichlorophenyl ketone (4.5 g, 14.4 mmol) and dimethyl-formamide dimethylacetal (7.7 mL, 58 mmol) in DMF (60 mL) was heated at 75° C. for 20 h. The volatiles were removed in vacuo to provide the crude product which was used directly in the next step. HPLC/MS: 354 (M+1), 356 (M+3); Rt=3.47 min.

reactant | 4-chlorobenzyl 2,4-dichlorophenyl ketone | 14.4 mmol, 4.5 g | ClC1=C(C=CC(=C1)Cl)C(=O)CC1=CC=C(C=C1)Cl | C14H9Cl3O
reactant | dimethyl-formamide dimethylacetal | 58 mmol, 7.7 mL | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 3-Dimethylamino-1-(2,4-dichlorophenyl)-2-(4-chlorophenyl)prop-2-en-1-one | CN(C=C(C(=O)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)C | C17H14Cl3NO
